Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
acute cholecytitis
 
Major Surgical or Invasive Procedure:
ERCP s/p 2 stents placement 
 
History of Present Illness:
Mr. ___ is an ___ year old male with history of BPH and
gallstones, who was admitted to ___ on ___ with acute
cholecystitis, underwent cholecystectomy c/b bile leak, and is
now transferred to ___ for ERCP stenting across the bile leak.

He presented to ___ with 3 days of upper abdominal pain
radiating to the right shoulder. It was constant, ___ severity,
without associated fevers, chills, nausea, vomiting, diarrhea, 
or
jaundice. Positive ___ sign on exam; RUQ u/s and CT showing
gallbladder wall edema, 4cm calcified stone at neck, and
pericholecystic fluid c/f acute cholecystitis. He underwent
laparoscopic converted to open cholecystectomy, course c/b bile
leak. He was transferred here for ERCP procedure.
 
Vitals on transfer: T 98.5, HR 82, BP 135/76, satting 93% on RA. 


Upon arrival to ___, the patient endorsed right sided abdominal
pain at his procedure site, worse when he moves around in bed or
takes a deep breath. However, he denied fevers, chills,
lightheadedness, headache, chest pain, dyspnea, cough, nausea, 
or
vomiting. He wonders how long the procedure will take.
 
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Otherwise  
 

 
Past Medical History:
- gallstones
- BPH
- L inguinal hernia repair ___ yrs ago)
- Appendectomy (childhood)

 
Social History:
___
Family History:
Not pertinent to presenting problem.

 
Physical Exam:
Admission physical exam 

VITALS: Afebrile, HR 85, BP 129/69, RR 17, satting 94% on RA 
GENERAL: Pleasant, alert, and interactive. No acute distress.
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: JVP not elevated. 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm with occasional extra beats, normal
S1 S2, no murmurs, rubs, gallops  
ABD: Distended but soft. Tender to palpation of right upper and
lower abdomen around his incision sites. Nontender elsewhere, no
guarding or rebound. Dressings covering incision sites are CDI,
without surrounding erythema or induration. JP drain in place,
draining small amount of serosanginous fluid.
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
SKIN: No visible rashes or other lesions.
NEURO: A&Ox3. No visible facial asymmetry. Moving all 4
extremities. 
ACCESS: PIVs. 

 
Pertinent Results:
Labs:

___ 01:19PM BLOOD WBC-7.0 RBC-5.33 Hgb-11.0* Hct-35.1* 
MCV-66* MCH-20.6* MCHC-31.3* RDW-15.1 RDWSD-35.0* Plt ___
___ 01:19PM BLOOD Neuts-73.6* Lymphs-14.5* Monos-11.4 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-5.11 AbsLymp-1.01* 
AbsMono-0.79 AbsEos-0.01* AbsBaso-0.02
___ 01:19PM BLOOD ___ PTT-26.9 ___
___ 01:19PM BLOOD Plt ___
___ 01:19PM BLOOD Glucose-87 UreaN-20 Creat-1.0 Na-133* 
K-4.4 Cl-96 HCO3-24 AnGap-13
___ 01:19PM BLOOD ALT-48* AST-51* LD(LDH)-179 AlkPhos-40 
TotBili-1.1
___ 01:19PM BLOOD Albumin-3.6 Calcium-8.3* Phos-2.8 Mg-2.3

Blood culture on ___ pending

 
Brief Hospital Course:
___ year old male with history of BPH and gallstones, who was
admitted to ___ on ___ with acute cholecystitis,
underwent cholecystectomy c/b bile leak, and is now transferred
to ___ for ERCP stenting across the bile leak, now s/p ERCP 
with 2 stents placed 

=================  
ACTIVE ISSUES  
=================  
#Bile Leak
#Acute cholecystitis s/p cholecystectomy s/p ERCP with 2 stents 
placed. 
Dx:
- Daily CBC, lytes, LFTs
- Active T&S prior to procedure
Tx:
- Empiric coverage with Cefepime + Flagyl
- Post-procedural monitoring in FICU. Given patient is stable, 
he is being transferred back to ___ today. 

=================  
CHRONIC ISSUES  
=================  
# BPH
- Holding home tamsulosin prior to procedure 
 
Medications on Admission:
MetroNIDAZOLE 500 mg IV Q8H 
CefePIME 2 g IV Q12H 
Heparin 5000 UNIT SC BID 
 
Discharge Medications:
MetroNIDAZOLE 500 mg IV Q8H 
CefePIME 2 g IV Q12H 
Heparin 5000 UNIT SC BID 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute cholecystitis
 
Discharge Condition:
Stable 
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you here at ___.

You were transferred here from ___ so you could undergo 
an ERCP with stent placement. During this procedure, a stent was 
placed to prevent further obstruction of your bile ducts which 
caused your gall bladder infection in the first place.

You  tolerated the procedure very well. You have 2 stents in 
place right now. You were continued on antibiotics. You will be 
transferred back to ___ for further care.

We are happy to see you feeling better.

Sincerely,
your ___ team 
 
Followup Instructions:
___